US08957070B2
2-[(4-Acetylpiperazin-1-yl)methyl]-N-methyl-N-[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-3-sulfonamide
To a solution of 2-(chloromethyl)-N-methyl-N-[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-3-sulfonamide (110 mg) and triethylamine (150 μL) in tetrahydrofuran (5 mL) was added N-acetylpiperazine (33 mg). The reaction mixture was stirred at room temperature for 10 hr. The reaction mixture was concentrated, and the obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:1) to give the title compound (108 mg, yield 81%) as pale-yellow crystals. melting point 242° C.

reactant | 2-(chloromethyl)-N-methyl-N-[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-3-sulfonamide | 110 mg | ClCC=1SC=CC1S(=O)(=O)N(C=1C=CC=C2C=C(NC12)C=1SC=CN1)C | C17H14ClN3O2S3
reactant | triethylamine | 150 μL | C(C)N(CC)CC | C6H15N
reactant | N-acetylpiperazine | 33 mg | C(C)(=O)N1CCNCC1 | C6H12N2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-[(4-Acetylpiperazin-1-yl)methyl]-N-methyl-N-[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-3-sulfonamide | 108 mg, yield 81% | C(C)(=O)N1CCN(CC1)CC=1SC=CC1S(=O)(=O)N(C=1C=CC=C2C=C(NC12)C=1SC=CN1)C | C23H25N5O3S3
